US07544679B2
A solution of 50.0 mg (0.14 mmol) 2-hydroxy-2-((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl)-pentanoic acid and 14.2 mg (0.15 mmol) 2,2-difluoropropylamine in 2.5 ml tetrahydrofuran were cooled to 0° C. and 20.2 mg (0.15 mmol) 1-hydroxy-benzotriazole hydrate, 39 μl (0.3 mmol) diisopropylethylamine and 28.6 mg (0.15 mmol) N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimide hydrochloride were added. Stirring was continued overnight. Removal of the solvent by distillation and chromatography on silicagel with heptane/ethylacetate (gradient 90:10 to 50:50) yielded 30.0 mg (50%) (R/S)-N-(2,2-Difluoro-propyl)-2-hydroxy-N-((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-2-propyl-malonamide: MS (m/e): 446.1 (M+H)+.

reactant | 2-hydroxy-2-((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl)-pentanoic acid | 0.14 mmol, 50.0 mg | OC(C(=O)O)(CCC)C(N[C@H]1C2=C(C3=C(NC1=O)C=CC=C3)C=CC=C2)=O | C20H20N2O5
reactant | 2,2-difluoropropylamine | 0.15 mmol, 14.2 mg | FC(CN)(C)F | C3H7F2N
reactant | 1-hydroxy-benzotriazole hydrate | 0.15 mmol, 20.2 mg | O.ON1N=NC2=C1C=CC=C2
reactant | diisopropylethylamine | 0.3 mmol, 39 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimide hydrochloride | 0.15 mmol, 28.6 mg | Cl.CN(CCCN=C=NCC)C
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
product | (R/S)-N-(2,2-Difluoro-propyl)-2-hydroxy-N-((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-2-propyl-malonamide | 30.0 mg, 50% | FC(CN(C(C(C(=O)N)(CCC)O)=O)[C@H]1C2=C(C3=C(NC1=O)C=CC=C3)C=CC=C2)(C)F | C23H25F2N3O4
